US04714774
To a solution of tert-butyl 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-bromobenzoate (1.5 g) in dioxane (10 ml) was added a cooled solution of 2 N hydrogen chloride in dioxane (10 ml) at 20° C. under stirring. The reaction mixture was warmed to room temperature, and stirred for 30 minutes. To the mixture was added an additional cooled solution of 2 N hydrogen chloride in dioxane (10 ml). The mixture was stirred for 1.5 hours and subjected to concentration under reduced pressure. The residue was dissolved in chloroform (30 ml), and the solution was washed with water (30 ml) and dried with magnesium sulfate. The solvent was removed by evaporation, and the residue was dissolved in isopropyl ether. The solution was treated with activated carbon, and to the solution was added hexane to give crystals. The crystals were collected by filtration, subjected to silica gel column chromatography, and subjected to recrystallization from aqueous ethanol to give colorless crystals of 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-bromobenzoic acid (0.35 g). M.p. 154°-156° C.

reactant | tert-butyl 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-bromobenzoate | 1.5 g | C(C)(=O)OC=1C(=C(OCCCOC2=C(C=C(C(=O)OC(C)(C)C)C=C2)Br)C=CC1C(C)=O)CCC | C27H33BrO7
reactant | hydrogen chloride | 2 N | Cl | ClH
reactant | hydrogen chloride | 2 N | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-bromobenzoic acid | 0.35 g | C(C)(=O)OC=1C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)Br)C=CC1C(C)=O)CCC | C23H25BrO7
